US04439225
3,4-Dihydro-2,6-dimethyl-2H-pyran-2-methanol
A mixture of 3,4-dihydro-2,6-dimethyl-2H-pyran-2-carboxylic acid butyl ester (23.7 g) and lithium aluminum hydride (4.2 g) in 160 ml tetrahydrofuran was heated briefly to reflux and then allowed to cool. After 3.5 hours, excess hydride was destroyed by addition of ethyl acetate (70 ml). Volatile solvents were then stripped, and the residue was treated with 100 ml 15% aqueous sodium hydroxide and extracted with ether. The organic phase was dried over potassium carbonate and distilled to afford 12.3 g colorless product with bp 48°-49° C. (0.03 torr).

reactant | 3,4-dihydro-2,6-dimethyl-2H-pyran-2-carboxylic acid butyl ester | 23.7 g | C(CCC)OC(=O)C1(OC(=CCC1)C)C | C12H20O3
reactant | lithium aluminum hydride | 4.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2,6-dimethyl-2H-pyran-2-methanol | 12.3 g | CC1(OC(=CCC1)C)CO | C8H14O2
